US08044067B2
A mixture of potassium cyanide (41.5 g), triethylbenzylammonium chloride (5.23 g), water (130 ml) and dichloromethane (150 ml) was cooled to 0° C. To the vigorously stirred mixture, a solution containing the 3,4,5-trimethoxy-benzaldehyde (100.0 g) and acetic anhydride (52.1 g) in dichloromethane (150 ml) was added drop wise at 0° C. during 30 minutes. The stirring was continued at 0° C. for 30 minutes and then at ambient temperature for one hour. The organic phase was separated, dried and concentrated to dryness, leaving crude 3,4,5-trimethoxyphenyl-α-acetoxyacetonitrile. Crystallization from ethanol-water afforded the pure product (104 g), m.p. 65-66° C.

reactant | potassium cyanide | 41.5 g | [C-]#N.[K+]
reactant | water | 130 ml | O | H2O
reactant | 3,4,5-trimethoxy-benzaldehyde | 100.0 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | acetic anhydride | 52.1 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | triethylbenzylammonium chloride | 5.23 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3,4,5-trimethoxyphenyl-α-acetoxyacetonitrile | COC=1C=C(C=C(C1OC)OC)C(C#N)OC(C)=O | C13H15NO5
